US08106043B2
N-(4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
A solution of N-(4-(2-(1-methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.48 g, 1.242 mmol) in dry ethanol (10 mL) was treated with hydrochloric acid (1M in ether; 6.21 mL, 6.21 mmol) and stirred for half an hour. The precipitate was collected and rinsed with ether. The precipitate was dissolved in methanol and concentrated to give a yellow-orange crystalline solid (0.57 g, 100%). 1H-NMR (DMSO-d6) δ 11.22 (brs, 1H), 11.17 (brs, 1H), 9.68 (brs, 1H), 8.72 (brs, 1H), 8.15-8.13 (m, 2H), 7.37-7.34 (m, 1H), 7.05-6.99 (m, 2H), 6.91 (brd, J=8.7 Hz, 1H), 3.66-3.64 (m, 2H), 3.55-3.41 (m, 3H), 3.38-3.22 (m, 1H), 3.12-3.09 (m, 2H), 3.00-2.97 (m, 1H), 2.76 (d, J=4.8 Hz, 3H), 2.32-2.18 (m, 2H), 1.99-1.86 (m, 3H), 1.77-1.71 (m, 1H); ESI-MS (m/z, %): 387 (MH+, free base, 100), 194 (19); ESI-HRMS calculated for C20H27N4S2 (MH+, free base): 387.1671, observed: 387.1654; HPLC purity: 97% by area.

reactant | N-(4-(2-(1-methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 1.242 mmol, 0.48 g | CN1C(CCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C20H26N4S2
reactant | hydrochloric acid | 6.21 mmol, 1M, 6.21 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | 0.57 g, 100% | Cl.Cl.CN1C(CCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | InChI=1S/C20H26N4S2.2ClH/c1-23-9-2-4-16(23)8-10-24-11-13-26-19-14-15(6-7-17(19)24)22-20(21)18-5-3-12-25-18;;/h3,5-7,12,14,16H,2,4,8-11,13H2,1H3,(H2,21,22);2*1H
